US06982348B2
4-fluoro-N-{(1RS,2SR)-2-(3-chlorophenyl)-2-hydroxy-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-1-naphthamide
To a solution of (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol (300 mg, 0.79 mmol) in acetonitrile (20 ml) were added 4-fluoronaphthalenecarboxylic acid (151 mg, 0.79 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (228 mg, 1.19 mmol) and 1-hydroxybenzotriazole hydrate (122 mg, 0.79 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-ethyl acetate). Recrystallization from ethyl acetate-hexane gave the objective substance (163 mg, 37%).

reactant | (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol | 0.79 mmol, 300 mg | NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C17H16ClF4NO2
reactant | 4-fluoronaphthalenecarboxylic acid | 0.79 mmol, 151 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.19 mmol, 228 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.79 mmol, 122 mg | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 4-fluoro-N-{(1RS,2SR)-2-(3-chlorophenyl)-2-hydroxy-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-1-naphthamide | FC1=CC=C(C2=CC=CC=C12)C(=O)NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C28H21ClF5NO3
